US06313122B1
C. 4,5-Difluoro-2-[[1-(4-pyridyl)-piperidin-4-ylcarbonyl]amino]-N-(4-methoxyphenyl)benzamide hydrochloride
Using the procedure described in Example 138, N-(4-methoxyphenyl)-2-amino-4,5-difluorobenzamide (1.8 mmol) and N-(4-pyridyl)isonipecotoyl chloride (3.6 mmol), purifying with RPHPLC Method A, yielded 505 mg (57%) of the title compound.

reactant | N-(4-methoxyphenyl)-2-amino-4,5-difluorobenzamide | 1.8 mmol | COC1=CC=C(C=C1)NC(C1=C(C=C(C(=C1)F)F)N)=O | C14H12F2N2O2
reactant | N-(4-pyridyl)isonipecotoyl chloride | 3.6 mmol | N1=CC=C(C=C1)N1CCC(C(=O)Cl)CC1 | C11H13ClN2O
product | 4,5-Difluoro-2-[[1-(4-pyridyl)-piperidin-4-ylcarbonyl]amino]-N-(4-methoxyphenyl)benzamide hydrochloride | 505 mg, 57% | Cl.FC1=CC(=C(C(=O)NC2=CC=C(C=C2)OC)C=C1F)NC(=O)C1CCN(CC1)C1=CC=NC=C1 | InChI=1S/C25H24F2N4O3.ClH/c1-34-19-4-2-17(3-5-19)29-25(33)20-14-21(26)22(27)15-23(20)30-24(32)16-8-12-31(13-9-16)18-6-10-28-11-7-18;/h2-7,10-11,14-16H,8-9,12-13H2,1H3,(H,29,33)(H,30,32);1H
